US05773433
(±)-Methyl cis-2-[(dimethylamino)methyl]-3,3a-dihydro-2H-dibenz[b,f]isoxazolo-[2,3-d][1,4]oxazepine-11-carboxylate ethanedioate(1:1)(1.53g), prepared following the procedure in example 7, in ethanol (60 ml) was added dropwise to a mixture of sodium hydroxide (0.3 g) in water (7.5 ml) and the mixture was stirred and refluxed for 2 hours. The solvent was evaporated in vacuo and the residue was acidified with HCl (4N) to a pH of 3.6. The precipitate was filtered off, dried with P2O5 and purified by short pad column chromatography over silica gel (eluent: CH2Cl2 /(CH3OH/NH3) 7/3). The pure fractions were collected and evaporated and the residue (1 g) was treated with CH2Cl2 /C2H5OH/H2O 25ml/5ml/5ml. The precipitate was filtered off and dried, yielding 0.5 g (38%) of (±)-cis-2-[(dimethylamino)methyl]-3,3a-dihydro-2H-dibenz[b,f]isoxazolo[2,3-d][1,4]oxazepine-11-carboxylic acid hemihydrate; mp. 229.8° C. (comp. 4).

reactant | (±)-Methyl cis-2-[(dimethylamino)methyl]-3,3a-dihydro-2H-dibenz[b,f]isoxazolo-[2,3-d][1,4]oxazepine-11-carboxylate ethanedioate | 1.53g | C(C(=O)O)(=O)O.CN(C)C[C@@H]1C[C@@H]2N(C3=C(OC4=C2C=CC=C4)C=CC(=C3)C(=O)OC)O1
reactant | sodium hydroxide | 0.3 g | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 7.5 ml | O | H2O
product | (±)-cis-2-[(dimethylamino)methyl]-3,3a-dihydro-2H-dibenz[b,f]isoxazolo[2,3-d][1,4]oxazepine-11-carboxylic acid hemihydrate | 0.5 g, 38% | O.CN(C)C[C@@H]1C[C@@H]2N(C3=C(OC4=C2C=CC=C4)C=CC(=C3)C(=O)O)O1.CN(C)C[C@@H]1C[C@@H]3N(C4=C(OC2=C3C=CC=C2)C=CC(=C4)C(=O)O)O1 | InChI=1S/2C19H20N2O4.H2O/c2*1-20(2)11-13-10-15-14-5-3-4-6-17(14)24-18-8-7-12(19(22)23)9-16(18)21(15)25-13;/h2*3-9,13,15H,10-11H2,1-2H3,(H,22,23);1H2/t2*13-,15-;/m00./s1
